US04874867
Part A: 2-(β-cyanoethylaminocarbonyl)-4'-methylbiphenyl
4'-methylbiphenyl-2-carboxylic acid (50.00 g, 0.236 mol,), thionyl chloride (87.5 ml, 1.20 mol) and chloroform (500 ml) were mixed and refluxed for 4 hours. The thionyl chloride and solvent were removed in vacuo, and the residue suspended in toluene (300 ml). The mixture was evaporated in vacuo and the residue suspended once more in toluene and evaporated to insure removal of traces of thionyl chloride. The resultant acid chloride was dissolved in tetrahydrofuran (100 ml) and slowly added in five equal portions alternatingly with five equal portions of 1.0N NaOH (236.0 ml, 0.236 mol) to a solution of β-aminopropionitrile fumarate (30.3 g, 0.236 mol) in 1.0N NaOH (236.0 ml, 0.236 mol) at 0° with stirring. The reaction was allowed to warm slowly to room temperature. After 24 hrs, water (500 ml) was added and the aqueous mixture extracted with ethyl acetate (3×500 ml). The organic layers were combined and dried (MgSO4), and the solvent removed in vacuo to yield a crude solid which, after recrystallization from methylcyclohexane/butyl chloride, yielded 53.5 g of a white solid. M.P.=102.0°-103.5°. NMR (200MH2, CDCl3) δ:7.68 (d, 1H, J=7Hz); 7.56-7.19 (m, 7H); 5.65 (bm, 1H); 3.43 (d of t, 2H); 2.39 (t, 2H, J=7Hz). Anal. calcd. for C17H16N2O; C, 77.25; H, 6.10; N, 10.60. Found; C, 77.42; H, 6.40; N, 10.68.

reactant | 4'-methylbiphenyl-2-carboxylic acid | 0.236 mol, 50.00 g | CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)O | C14H12O2
reactant | thionyl chloride | 1.20 mol, 87.5 ml | S(=O)(Cl)Cl | Cl2OS
reactant | NaOH | 0.236 mol, 1.0N, 236.0 ml | [OH-].[Na+]
reactant | β-aminopropionitrile fumarate | 0.236 mol, 30.3 g | C(\C=C\C(=O)O)(=O)O.NCCC#N
reactant | NaOH | 0.236 mol, 1.0N, 236.0 ml | [OH-].[Na+]
solvent | water | 500 ml | O | H2O
solvent | chloroform | 500 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-(β-cyanoethylaminocarbonyl)-4'-methylbiphenyl | 53.5 g | C(#N)CCNC(=O)C1=C(C=CC=C1)C1=CC=C(C=C1)C | C17H16N2O
